US04908357
Under a dry nitrogen atmosphere, 7.18 g (0.0914 mole) of acetyl chloride was added to a cold (5° C.), stirred mixture of 11.9 g (0.0893 mole) of aluminum chloride in 100 ml of carbon tetrachloride. To this mixture was added a solution of 10.6 g (0.079 mole) of thianaphthalene in 25 ml of carbon tetrachloride. The reaction mixture was allowed to warm to room temperature and was stirred for two hours. The mixture was heated at reflux for 45 minutes and was cooled. The resultant mixture was poured into ice water, and 100 ml of concentrated hydrochloric acid was added. This mixture was stirred until the ice melted. The organic phase was removed and saved. The aqueous phase was extracted with methylene chloride. The organic phases were combined and dried over anhydrous sodium sulfate. This mixture was filtered, and the filtrate was treated with silica gel and decolorizing charcoal. The resulting mixture was filtered through a pad of silica gel. The filtrate was evaporated under reduced pressure to yield 11.3 g of 2 -acetylthianaphthalene as an oil.

reactant | acetyl chloride | 0.0914 mole, 7.18 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 0.0893 mole, 11.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thianaphthalene | 0.079 mole, 10.6 g | S1CC=CC2=CC=CC=C12 | C9H8S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2 -acetylthianaphthalene | 11.3 g | C(C)(=O)C1SC2=CC=CC=C2C=C1 | C11H10OS
